US04746673
Preparation of 1-(p-chlorophenylthio)-3,3-dimethyl-2-butanone
A 14.45 g quantity of p-chlorothiophenol and 13.8 g of anhydrous potassium carbonate were added to 200 ml of acetonitrile, and 13.45 of 1-chloro-3,3-dimethyl-2-butanone was added in small portions to the mixture while stirring the mixture. After stirring the mixture at 70° to 75° C. for 6 hours, the solid separating out was filtered off. The filtrate was concentrated to obtain a residue, which was subjected to extraction with benzene. To the extract was added 200 ml of 10% sodium hydroxide solution, followed by stirring at room temperature for 1 hour. The benzene layer was separated off, washed with water, then dried over anhydrous magnesium sulfate and distilled in a vacuum to remove the solvent, giving 20.2 g of the above-identified desired compound in the form of a pale yellow oil.

reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3,3-dimethyl-2-butanone | ClCC(C(C)(C)C)=O | C6H11ClO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(p-chlorophenylthio)-3,3-dimethyl-2-butanone | 20.2 g | ClC1=CC=C(C=C1)SCC(C(C)(C)C)=O | C12H15ClOS
